US05602277
Methyl 3-formyl-4-[(methylsulfonyl)amino]benzoate (3.85 g, 0.015 mol) was added portionwise to fuming nitric acid (45 mL) at 5°-10° C. over 0.25 h. The mixture was further stirred for 1.0 h at room temperature and then poured into cold water (200 mL). The yellow precipitate was collected by filtration and washed several times with cold water. The cake was recrystallized from ethyl acetate-hexane to give 2.5 g (55.3%) of methyl 3-formyl-4-[(methylsulfonyl)amino]-5-nitrobenzoate as light yellow needles, mp 158°-160° C.

reactant | Methyl 3-formyl-4-[(methylsulfonyl)amino]benzoate | 0.015 mol, 3.85 g | C(=O)C=1C=C(C(=O)OC)C=CC1NS(=O)(=O)C | C10H11NO5S
reactant | nitric acid | 45 mL | [N+](=O)(O)[O-] | HNO3
solvent | water | 200 mL | O | H2O
product | methyl 3-formyl-4-[(methylsulfonyl)amino]-5-nitrobenzoate | 2.5 g, 55.3% | C(=O)C=1C=C(C(=O)OC)C=C(C1NS(=O)(=O)C)[N+](=O)[O-] | C10H10N2O7S
